US06509341B1
N,N-di-n-Butyl-2-benzyloxyacetamide
3 g of N-methylmorpholine and 4 g of isobutyl chloroformate were successively added dropwise to 5 g of 2-benzyloxyacetic acid in 50 ml of THF at −10° C. The mixture was stirred for 10 minutes and then 5 ml of di-n-butylamine and a further 3 g of N-methylmorpholine were added. After one hour, the mixture was added to 500 ml of water and extracted several times with ether. The collected organic phases were dried over magnesium sulfate and, after removal of the solvent by distillation, 7 g of an oil were isolated and were immediately employed further.

reactant | N-methylmorpholine | 3 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 4 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-benzyloxyacetic acid | 5 g | C(C1=CC=CC=C1)OCC(=O)O | C9H10O3
reactant | di-n-butylamine | 5 ml | C(CCC)NCCCC | C8H19N
reactant | N-methylmorpholine | 3 g | CN1CCOCC1 | C5H11NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | N,N-di-n-Butyl-2-benzyloxyacetamide | 7 g | C(CCC)N(C(COCC1=CC=CC=C1)=O)CCCC | C17H27NO2
